* Z:\mnt\design.r\spice\examples\3464.asc
L1 IN N001 22µ
V1 IN 0 5
C1 OUT N002 .22µ
C2 N002 0 .33µ
R1 OUT N003 3.48Meg
R2 N003 0 294K
Rload OUT 0 2K
XU1 IN N003 OUT 0 N002 N001 IN IN LT3464
.tran 500u startup
.lib LT3464.sub
.backanno
.end
